US04234512
(1R,cis)-2-[2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropyl]ethanal dimethyl acetal
Tri(dimethylamino)phosphine (163.2 mmol) was added with stirring at 0° C. to a solution of (1R,cis)-2-(2,2-dimethoxyethyl)-3,3-dimethylcyclopropanecarbaldehyde (65.5 mmol) and carbon tetrachloride (163.2 mmol) in n-pentane (350 ml) kept under nitrogen in a 1-l flask. After 15 minutes stirring, the mixture was warmed up to 14° C. and kept at this temperature for 15 minutes. Then, water (75 ml) was added at 14° C. and--after removal of the aqueous phase--the organic phase was washed with two 35-ml portions of water. The washed organic phase was dried over anhydrous magnesium sulphate and the solvent was evaporated from the dried solution to give a residue (15.7 g) containing 32.1 mmol of 2-[2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropyl]ethanal dimethyl acetal (100% (1R,cis), purity 51.7%, yield 49%).

reactant | Tri(dimethylamino)phosphine | 163.2 mmol | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | (1R,cis)-2-(2,2-dimethoxyethyl)-3,3-dimethylcyclopropanecarbaldehyde | 65.5 mmol | COC(C[C@H]1[C@H](C1(C)C)C=O)OC | C10H18O3
reactant | carbon tetrachloride | 163.2 mmol | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | water | 75 ml | O | H2O
solvent | n-pentane | 350 ml | CCCCC | C5H12
product | (1R,cis)-2-[2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropyl]ethanal dimethyl acetal | 15.7 g | COC(C[C@@H]1[C@@H](C1(C)C)C=C(Cl)Cl)OC | C11H18Cl2O2
